* /Users/Matheus/ProjetoDeDiplomacao/AudioCircuitDigitalModeling/implementation/ltspice/MxrDistortionPlus.asc
R1 Vin Vc 10k
R2 v+ 0 1meg
C1 Vc v+ 0.01µ
XU1 v+ v- N003 N006 AmpOut level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 N003 0 100
R3 N001 v- 4.7k
C2 0 N001 0.047µ
R5 v- AmpOut 1meg
R6 AmpOut N004 10k
C3 Vout 0 0.001µ
R7 Vout 0 10k
V3 N006 0 -100
V2 Vin 0 wavefile = SineClear80.wav
C4 N004 Vout 1µ
D1 Vout 0 1N34a
D2 0 Vout 1N34a
.model D D
.lib /Users/Matheus/Library/Application Support/LTspice/lib/cmp/standard.dio
.tran 2.5
.wave "output.wav" 16 44.1k V(Vout)
.tr
.inc 1N34a.txt
.lib UniversalOpamps2.sub
.backanno
.end
